US08877760B2
(R)-5-(1-amino-1-oxobutan-2-ylamino)-3-(3-phenylisothiazol-5-ylamino)pyrazine-2-carboxamide
The compound (R)-2-(5-cyano-6-(3-phenylisothiazol-5-ylamino)pyrazin-2-ylamino)butanamide (8 mg, 0.021 mmol) was dissolved in EtOH (1 mL) and DMSO (0.5 mL), aq. 1N NaOH (0.5 mL) and aq. H2O2 (30%, 0.5 mL) were added. The mixture was stirred at room temperature for 20 min. HOAc (0.1 mL) was added. The mixture was then concentrated in vacuo. The residue was purified by HPLC to give the titled compound (5 mg). MS found for C18H19N7O2S as (M+H)+ MS 398.2. UV: λ=UV 201.1, 267.7, 321.9 nm.

reactant | (R)-2-(5-cyano-6-(3-phenylisothiazol-5-ylamino)pyrazin-2-ylamino)butanamide | 0.021 mmol, 8 mg | C(#N)C=1N=CC(=NC1NC1=CC(=NS1)C1=CC=CC=C1)N[C@@H](C(=O)N)CC | C18H17N7OS
reactant | NaOH | 1N, 0.5 mL | [OH-].[Na+]
reactant | H2O2 | 0.5 mL | OO | H2O2
reactant | HOAc | 0.1 mL | CC(=O)O | C2H4O2
solvent | EtOH | 1 mL | CCO | C2H6O
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
product | (R)-5-(1-amino-1-oxobutan-2-ylamino)-3-(3-phenylisothiazol-5-ylamino)pyrazine-2-carboxamide | 5 mg | NC([C@@H](CC)NC=1N=C(C(=NC1)C(=O)N)NC1=CC(=NS1)C1=CC=CC=C1)=O | C18H19N7O2S
